US05468898
To a mixture of 1.579 g (3.96 mmol) of N-methyl-N-phenethyl-2-(5-benzyloxyindol-3-yl)acetamide and 0.4 ml of benzyltrimethylammonium hydroxide (40% solution in methanol) in 15 ml of dioxane is added with stirring 0.44 ml (0.43 g, 4.35 mmol) of ethyl propriolate. A reddish solution is obtained, which is stirred at room temperature for 18 hours and concentrated in vacuo. The residue is taken up in ethyl acetate, washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue is purified by dry column chromatography over silica gel eluting with a solvent system of 5% ethyl acetate in methylene chloride to yield 450 mg of N-methyl-N-phenethyl-2-[5-benzyloxy-1-(2-carbethoxyvinyl)indol-3-yl]acetamide.

reactant | N-methyl-N-phenethyl-2-(5-benzyloxyindol-3-yl)acetamide | 3.96 mmol, 1.579 g | CN(C(CC1=CNC2=CC=C(C=C12)OCC1=CC=CC=C1)=O)CCC1=CC=CC=C1 | C26H26N2O2
reactant | benzyltrimethylammonium hydroxide | 0.4 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | ethyl propriolate | 4.35 mmol, 0.44 ml, 0.43 g | C1=CC=C(C=C1)C2=CC=C(C=C2)NC3=CC=CC=C3 | C18H15N
reactant | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | N-methyl-N-phenethyl-2-[5-benzyloxy-1-(2-carbethoxyvinyl)indol-3-yl]acetamide | 450 mg | CN(C(CC1=CN(C2=CC=C(C=C12)OCC1=CC=CC=C1)C=CC(=O)OCC)=O)CCC1=CC=CC=C1 | C31H32N2O4
